US04090025
1-(2-hydroxyethyl)-4-phenyl-2-imidazolidone
A slurry of 1-(2-hydroxyethyl)-4-phenyl-4-imidazolin-2-one (10.2 g.) and 10 percent palladium on carbon (1 g.) in ethanol (200 ml.) is hydrogenated in a Parr Shaker apparatus at approximately 30 psig of hydrogen for three hours. The catalyst is then filtered, washed with ethanol, and the combined filtrate and washings are concentrated to give a colorless oil which solidifies on standing to yield the title compound; m.p. 60°-63° C.

reactant | 1-(2-hydroxyethyl)-4-phenyl-4-imidazolin-2-one | 10.2 g | OCCN1C(NC(=C1)C1=CC=CC=C1)=O | C11H12N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-(2-hydroxyethyl)-4-phenyl-2-imidazolidone | OCCN1C(NC(C1)C1=CC=CC=C1)=O | C11H14N2O2
